US09108977B2
To a solution of 500 mg of t-butyl 3-oxo-3,4,6,7,9,10-hexahydro[1,4]oxazino[2,3-h][3]benzazepine-8(2H)-carboxylate in 10 ml of DMF were added 250 μl of 1-(bromomethyl)-3-fluorobenzene and 800 mg of cesium carbonate, followed by stirring at 50° C. for 16 hours under an argon atmosphere. The reaction mixture was cooled to room temperature, and water added, followed by extraction with ethyl acetate twice. The combined organic layer was washed with saturated brine and then dried over anhydrous sodium sulfate. The solvent was evaporated and the residue was purified by silica gel chromatography (elution solvent: HEX-EtOAc) to obtain 609 mg of t-butyl 4-(3-fluorobenzyl)-3-oxo-3,4,6,7,9,10-hexahydro[1,4]oxazino[2,3-h][3]benzazepine-8(2H)-carboxylate.

reactant | t-butyl 3-oxo-3,4,6,7,9,10-hexahydro[1,4]oxazino[2,3-h][3]benzazepine-8(2H)-carboxylate | 500 mg | O=C1NC2=CC3=C(CCN(CC3)C(=O)OC(C)(C)C)C=C2OC1 | C17H22N2O4
reactant | 1-(bromomethyl)-3-fluorobenzene | 250 μl | BrCC1=CC(=CC=C1)F | C7H6BrF
reactant | cesium carbonate | 800 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | t-butyl 4-(3-fluorobenzyl)-3-oxo-3,4,6,7,9,10-hexahydro[1,4]oxazino[2,3-h][3]benzazepine-8(2H)-carboxylate | 609 mg | FC=1C=C(CN2C(COC=3C2=CC2=C(CCN(CC2)C(=O)OC(C)(C)C)C3)=O)C=CC1 | C24H27FN2O4
